US08420695B2
To a suspension of ethyl 2-anilino-5-phenylthiophene-3-carboxylate (51.7 mg, 0.160 mmol) in ethanol (3 mL) was added water (0.6 mL) and aqueous sodium hydroxide solution (2 M, 0.400 ml, 0.799 mmol). The reaction suspension was heated to 80° C. to afford a clear yellow solution; after one hour the suspension was allowed to cool to room temperature before being diluted with an aqueous hydrogen chloride solution (2 M, 1 mL), water (1.5 mL), and ethyl acetate (10 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (5 mL). The combined organic layers were combined and concentrated to afford 2-anilino-5-phenylthiophene-3-carboxylic acid.

reactant | ethyl 2-anilino-5-phenylthiophene-3-carboxylate | 0.160 mmol, 51.7 mg | N(C1=CC=CC=C1)C=1SC(=CC1C(=O)OCC)C1=CC=CC=C1 | C19H17NO2S
reactant | sodium hydroxide | 0.799 mmol, 2 M, 0.400 ml | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | hydrogen chloride | 2 M, 1 mL | Cl | ClH
solvent | water | 1.5 mL | O | H2O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 0.6 mL | O | H2O
product | 2-anilino-5-phenylthiophene-3-carboxylic acid | N(C1=CC=CC=C1)C=1SC(=CC1C(=O)O)C1=CC=CC=C1 | C17H13NO2S
